* source 081
.EXTERNAL OUTPUT OUT4
V_V1         +VCC 0 12Vdc
V_V2         -VCC 0 -12Vdc
R_R11         V50 N00356  10k  
R_R12         0 N00393  5.242k  
R_R13         N00468 N00393  10.29k  
R_R21         N00468 N01368  5.25k  
R_R22         N01368 N01428  4.75k  
R_R23         N01428 N01104  {VR2}  
C_C22         0 N01104  9.8385n  
R_R24         0 N01209  5.242k  
R_R25         OUT1 N01209  9.677k  
C_C21         N01368 OUT1  10.129n  
C_C31         N01623 OUT2  9.8226n  
R_R33         N01547 N01551  {VR3}  
R_R35         OUT2 N01579  7.548k  
C_C32         0 N01551  9.64n  
R_R32         N01623 N01547  6.867k  
R_R34         0 N01579  5.242k  
R_R31         OUT1 N01623  7.367k  
C_C41         N01948 OUT3  10.022n  
R_R43         N01872 N01876  {VR4}  
R_R45         OUT3 N01904  2.815k  
C_C42         0 N01876  10.159n  
R_R42         N01948 N01872  10.75k  
R_R44         0 N01904  5.242k  
R_R41         OUT2 N01948  13.25k  
X_U5         OUT3 OUT4 +VCC -VCC OUT4 uA741
X_U6         N00356 N00393 +VCC -VCC N00468 uA741
X_U7         N01104 N01209 +VCC -VCC OUT1 uA741
X_U8         N01551 N01579 +VCC -VCC OUT2 uA741
X_U9         N01876 N01904 +VCC -VCC OUT3 uA741
V_V4         V50 0  
+PULSE 0v 0.1v 0s 1ns 1ns 0.1ms 0.2ms
.PARAM  vr4=2.5k vr3=500 vr2=500
