* source 051
.EXTERNAL OUTPUT VO1
M_M2         VD VG VS VS MbreakN           
C_C5         VS 0  47u  
R_R2         0 VG  645k  
R_R3         0 VS  300  
C_C1         VG N00659  10u  
R_R4         0 VO1  4.7k  
R_R1         VG N00289  200k  
V_V1         N00659 0  
+SIN 0 0.1 10K 0 0 0
C_C2         VD VO1  10u  
C_C3         N00289 0  0.1u  
R_R5         VD N00289  1k  
C_C4         N00289 0  120u  
V_V2         N00289 0 20Vdc
