* source 081
.EXTERNAL OUTPUT VO55
.EXTERNAL OUTPUT VO11
R_R13         N02290 VO55  10k  
V_V1         V1 0  
+SIN 0 0.01 5.4k 0 0 0
X_U3         N01962 N02290 +15V -15V VO55 uA741
C_C3         +15V 0  1n  
V_V2         +15V 0 15
C_C4         -15V 0  1n  
V_V3         -15V 0 -15
R_R6         VO11 N01732  2.2k  
R_R7         N01732 VO22  33k  
R_R8         0 N02076  2k  
X_U1         V1 VO11 +15V -15V VO11 uA741
R_R11         N01962 V1  10k  
R_R10         N01962 VO22  10k  
X_U2         N02076 N01732 +15V -15V VO22 uA741
C_C1         +15V 0  1n  
R_R12         N02290 0  10k  
C_C2         0 -15V  1n  
