* source 091_2
.EXTERNAL OUTPUT VO55
.EXTERNAL OUTPUT VO11
R_R10         N01962 VO55  47k  
V_V1         V1 0  AC 1
+SIN 0 0.005 11589kHZ 0 0 0
X_U3         N07506 N01962 +15V -15V VO55 uA741
C_C3         +15V 0  0.1u  
V_V2         +15V 0 15
C_C4         -15V 0  0.1u  
V_V3         -15V 0 -15
R_R6         VO11 N01732  2.2k  
R_R7         N01732 VO22  33k  
R_R8         0 N02076  2k  
X_U1         V1 VO11 +15V -15V VO11 uA741
R_R11         0 N07506  1.5k  
R_R9         N01962 VO22  1.5k  
X_U2         N02076 N01732 +15V -15V VO22 uA741
C_C1         +15V 0  120u  
C_C2         0 -15V  120u  
