* source TEST
.EXTERNAL OUTPUT VO1
V_V2         N00463 0 20Vdc
R_R3         N03530 N00463  1k  
C_C1         VB1 N00825  39u  
R_R4         0 VE1  56  
C_C2         N00714 VO1  39u  
R_R5         0 VO1  1k  
C_C3         N00463 0  0.1u  
V_V1         N00825 0 DC 0 AC 1
+SIN 0 50m 5.4k 0 0 0
C_C4         N00463 0  120u  
Q_Q1         N00714 VB1 VE1 Q2N2222
R_R6         VB1 N03433 {4k*0.5+.001}
R_R7         N00714 N03530 {272*0.5+.001}
R_R1         N03433 N00463  39k  
R_R2         0 VB1  2.7k  
