* source 031
.EXTERNAL OUTPUT VO1
Q_Q1         VC VB VE Q2N2222
R_R1         VB VC  150k  
R_R2         0 VB  91k  
R_R3         0 VE  3.3k  
R_R4         0 VO1  1k  
C_C1         VB N00659  10u  
C_C2         VE VO1  47u  
C_C3         VC 0  0.1u  
C_C4         VC 0  120u  
V_V1         N00659 0 DC 0 AC 1
+SIN 0 50m 5.4k 0 0 0
V_V2         VC 0 30Vdc
