* source TT
.EXTERNAL OUTPUT V01
C_C4         VC1 VB2  39u  
C_C6         VC2 V01  39u  
R_R3         0 VB1  5.1k  
C_C7         VB1 N00729  39u  
C_C3         VE1 0  120u  
R_R4         0 VE1  240  
R_R11         VE2 N05274  47  
Q_Q2         VC2 VB2 N05274 Q2N2222
R_R7         VC2 N00461  3.6k  
C_C5         VE2 0  120u  
C_C2         N00461 0  120u  
V_V2         N00461 0 30Vdc
V_V1         N00729 0 DC 0 AC 1
+SIN 0 10m 5.4k 0 0 0
R_R10         VE1 N04915  47  
R_R9         0 V01  1k  
Q_Q1         VC1 VB1 N04915 Q2N2222
R_R2         VC1 N00461  3.6k  
R_R8         0 VE2  240  
C_C1         N00461 0  0.1u  
R_R5         0 VB2  5.1k  
R_R1         VB1 N00461  56k  
R_R6         VB2 N00461  56k  
